US05240960
A mixture of 2.36 g of 1-iodo-2-methyl-4-nitro-benzene and 2.2 g of powdered copper (Org. Synthesis Coll., Vol. II (1948), page 445 washed with water, acetone and dried under reduced pressure) in 10 ml of dimethylformamide under nitrogen in a sealed vessel was cooled to -60° C. and 11 5 g of pentafluoroethyl iodide were added. The mixture was stirred at 160° C. at a pressure of 3.5 bars for 16 hours and then cooled in ice and returned to room temperature. The mixture was poured into ice and was extracted with ethyl acetate. The organic phase was washed with water, dried and evaporated to dryness under reduced pressure. The residue was chromatographed over silica (eluant-pentane containing 2 to 3% of dichloromethane) to obtain 1.5 g of 1-pentafluoroethyl-2-methyl-4-nitro-benzene which was hydrogenated in the presence of palladized active carbon to obtain the desired product.

reactant | 1-iodo-2-methyl-4-nitro-benzene | 2.36 g | IC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6INO2
reactant | pentafluoroethyl iodide | FC(C(F)(F)F)(F)I | C2F5I
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | copper | 2.2 g | [Cu] | Cu
product | 1-pentafluoroethyl-2-methyl-4-nitro-benzene | 1.5 g | FC(C(F)(F)F)(C1=C(C=C(C=C1)[N+](=O)[O-])C)F | C9H6F5NO2
